US05756507
Step 7.1J Propylcarbamic acid 2-(3,5-dimethylphenyl)-3-[2-[4-(4-hydroxyphenyl)-butylamino]ethyl]-1H-indol-5-yl ester
To a stirred solution of propylcarbamic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxyphenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester (17 mg in a mixture of 1.5 mL tetrahydrofuran and 0.5 mL methanol) was added 16 mg of 10% palladium on carbon catalyst followed by acetic acid (0.010 mL of a 30% solution in water). The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 1.5 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (methylene chloride:methanol:ammonium hydroxide, 90:6:1) gave the title compound (11 mg). m/e=514 (M+H)

reactant | propylcarbamic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxyphenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester | C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)OC(NCCC)=O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C47H51N3O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | palladium on carbon | 16 mg | [Pd] | Pd
solvent | water | O | H2O
product | Propylcarbamic acid 2-(3,5-dimethylphenyl)-3-[2-[4-(4-hydroxyphenyl)-butylamino]ethyl]-1H-indol-5-yl ester | 11 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=C(C=C1)O)OC(NCCC)=O | C32H39N3O3
